US07495007B2
In a manner similar to the method described in example 1b, 2-chloro-benzaldehyde (1.3 g, 9.25 mmol) (Aldrich) was used as the starting material in place of 3-chloro-benzaldehyde to react with 1,1,1,3,3,3-hexamethyldisilazane (1.49 g, 9.25 mmol), n-butyllithium (2.5 M, 3.7 mL, 9.25 mmol), trimethylsilyl chloride (1.2 mL, 9.25 mmol), triethylamine (1.7 mL, 12.0 mmol) and acetyl chloride (0.85 mL, 12.0 mmol) to give 1-(2-chlorophenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 2-chloro-benzaldehyde | 9.25 mmol, 1.3 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-chloro-benzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 9.25 mmol, 1.49 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 9.25 mmol, 2.5 M, 3.7 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 9.25 mmol, 1.2 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 12.0 mmol, 1.7 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 12.0 mmol, 0.85 mL | C(C)(=O)Cl | C2H3ClO
product | 1-(2-chlorophenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | ClC1=C(C=CC=C1)C=NC(=C)O[Si](C)(C)C | C12H16ClNOSi
